US06653304B2
2-Methoxy-3-nitro-4-methyl pyridine (200 mg, 1.2 mmol) and dimethylacetamide dimethylacetal (0.5 mL) were heated at 130° C. for 18 h. The reaction mixture was cooled and concentrated in vacuo to a deep purple-red oil. Benzene (4 mL) and 10% Pd/C (25 mg) were added and the solution hydrogenated at 45 psi for 18 h (Parr apparatus). The red coloration disappeared. The crude reaction mixture was purified directly by silica gel chromatography (20% EtOAc/hex) to furnish 2-methyl-7-methoxy-6-azaindole (112 mg, 57% yield). LC-MS 163.1, M+H.

reactant | 2-Methoxy-3-nitro-4-methyl pyridine | 1.2 mmol, 200 mg | COC1=NC=CC(=C1[N+](=O)[O-])C | C7H8N2O3
reactant | dimethylacetamide dimethylacetal | 0.5 mL | COC(C)(N(C)C)OC | C6H15NO2
product | 2-methyl-7-methoxy-6-azaindole | 112 mg, 57% yield | CC=1NC2=C(N=CC=C2C1)OC | C9H10N2O
